US07786115B2
To a stirred solution of 3-(7-hydroxy-1-oxoisoquinolin-2(1H)-yl)-4-methylbenzoic acid (140 mg) in methylene chloride (3 ml) was added thionyl chloride (40 μl) and DMF (40 μl) and the solution heated to 40° C. for 35 minutes. The reaction mixture was cooled to room temperature and 2M ethylamine in THF (2.1 mL) was added and the reaction stirred at room temperature for 2 hours. The reaction was dissolved in 1N NaOH and washed with ethyl acetate. The aqueous layer was acidified to pH 3 and extracted with ethyl acetate (×3). The organic layers were dried (magnesium sulfate) and concentrated to yield N-ethyl-3-(7-hydroxy-1-oxoisoquinolin-2(1H)-yl)-4-methylbenzamide as a solid (88 mg); NMR Spectrum: (DMSOd6) 1.11 (t, 3H), 2.09 (s, 3H), 3.30 (m, 2H), 6.66 (d, 1H), 7.11 (d, 1H), 7.25 (d, 1H), 7.49 (d, 1H), 7.60 (s, 1H), 7.61 (d, 1H), 7.77 (s, 1H), 7.89 (d, 1H), 8.47 (s, 1H); Mass Spectrum: M+H+ 323.

reactant | 3-(7-hydroxy-1-oxoisoquinolin-2(1H)-yl)-4-methylbenzoic acid | 140 mg | OC1=CC=C2C=CN(C(C2=C1)=O)C=1C=C(C(=O)O)C=CC1C | C17H13NO4
reactant | thionyl chloride | 40 μl | S(=O)(Cl)Cl | Cl2OS
reactant | DMF | 40 μl | CN(C)C=O | C3H7NO
reactant | ethylamine | 2M | C(C)N | C2H7N
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
solvent | THF | 2.1 mL | C1CCOC1 | C4H8O
solvent | NaOH | 1N | [OH-].[Na+]
product | N-ethyl-3-(7-hydroxy-1-oxoisoquinolin-2(1H)-yl)-4-methylbenzamide | 88 mg | C(C)NC(C1=CC(=C(C=C1)C)N1C(C2=CC(=CC=C2C=C1)O)=O)=O | C19H18N2O3
